US04396622
2,4-Dimethyl-1-[3-(2,5-dichlorbenzenesulphonamido)propyl]-pyrrolidine (33) (see Table 2)
2,4-Dimethyl-1-(3-aminopropyl) pyrrolidine in (4.7 g, 0.03 mol) benzene (30 ml) was added dropwise at room temperature to a solution of 2,5-dichlorobenzenesulphonylchloride (7.3 g, 0.03 ml) in benzene (100 ml). Thereafter, the mixture was stirred for 4 days at room temperature until the reaction was complete. Finally, the reaction product was obtained as a viscous, oily paste. The benzene mother liquor was decanted. The residue was dissolved in water, the solution was adjusted to pH 9.8 with 10% NaOH and extractes with petroleum ether (40°-60°) (4×100 ml). The combined extracts were dried over Na2SO4 and evaporated. The residue (5 g) was recrystallised twice from 100 ml petroleum ether to yield the product (3.7 g as white needles), m.p. 65°-67° C. Yield=67% of theoretical

reactant | 2,4-Dimethyl-1-(3-aminopropyl) pyrrolidine | CC1N(CC(C1)C)CCCN | C9H20N2
reactant | 2,5-dichlorobenzenesulphonylchloride | 0.03 ml, 7.3 g | ClC1=C(C=C(C=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 0.03 mol, 30 ml, 4.7 g | C1=CC=CC=C1 | C6H6
product | 2,4-Dimethyl-1-[3-(2,5-dichlorbenzenesulphonamido)propyl]-pyrrolidine | Yield=67% | CC1N(CC(C1)C)CCCNS(=O)(=O)C1=C(C=CC(=C1)Cl)Cl | C15H22Cl2N2O2S
